Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Biaxin / clarithromycin / Fosamax / NSAIDS (Non-Steroidal 
Anti-Inflammatory Drug)
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
___ AV nodal ablation and single RV lead pacemaker 
placement

 
History of Present Illness:
___ yo F with atrial fibrillation on Coumadin, CHF with LVEF of 
35%, and COPD on 1 L who presents with a 2 week history of 
increasing shortness of breath and a 6 pound weight gain. 
Increased oxygen use. Symptoms worse with exertion. No increase 
in symptoms at night. Accompanied by increased lower extremity 
edema. Her cardiologist tried to increase bumetanide from 2 mg 
BID to 4 mg QAM and 3 mg QPM but this did not improve symptoms. 
No chest pain or palpitations. Patient has TTE today which 
showed significant worsening in her LVEF to 25%. No recent 
changes in diet or patient's other medications.
  
In the ED, initial vital signs were 96.7, 69, 96/65, 36, 92% RA. 
Initially with HR in the 130-140. Received metoprolol 5 mg IV 
x3, metoprolol PO, and Lasix 40 mg IV. Labs were notable for Cr 
of 1.8 above baseline of 1.4 and INR of 3.6. CXR remarkable for 
enlarged cardiac silhouette, small pleural effusions, and 
pulmonary edema. Patient became hypotensive to 70/50 in ED but 
improved with diuresis and rate control with metoprolol. 
 
On the floor, vital signs were 100, 102/70, 20, 97% 2 L. Patient 
felt significantly better and was ambulating to the restroom by 
herself. She was given Lasix 40 mg IV with minimal urine output. 
She remained tachycardic and subsequently became hypotensive to 
82/53 and had increasing shortness of breath despite maintaining 
sats in high-90's on 2 L NC. Decision was made to transfer 
patient to CCU for further evaluation and management.
 
Past Medical History:
- Systolic CHF with LVEF of 35%
- Rheumatic heart disease s/p AVR and MVR at ___ in ___
- Atrial fibrillation on Coumadin
- Hyperlipidemia
- COPD on 1 L O2 at home
- Pulmonary hypertension
- Asthma
- Diverticulosis s/p colostomy
- Gouty arthritis
- Obesity
- Generalized anxiety disorder
- Depression
 
Social History:
___
Family History:
Father with lung cancer. Brother with TB.
 
Physical Exam:
ADMISSION EXAM
VS: 109, 92/66, 25, 92% 2 L
General: AAOx3, tachypneic but in no distress, pleasant
HEENT: Sclera anicteric, mucous membranes dry
Neck: JVP elevated to angle of mandible
CV: Tachycardic, irregularly irregular, ___ systolic murmur
Lungs: Crackles at bases
Abdomen: Soft, NTND, normoactive bowel sounds
Ext: Warm, well-perfused, 2+ edema bilaterally
Neuro: CN II-XII grossly intact
Skin: No concerning lesions

DISCHARGE EXAM
VS: 97.5, 98.2, 91, 96/60, 20, 91% RA
I/O: 1420/600++ (incontinence)
Weight: 50.9 -> 55.1 (yesterday's weight likely error)
___: 130-234
General: AAOx3, NAD
HEENT: Sclera anicteric, MMM
Neck: JVP at 6-7 cm with hepatojugular reflux
CV: RRR, nl S1/S2, ___ systolic murmur
Lungs: CTAB, patient with slight cough
Abdomen: Soft, NTND, normoactive bowel sounds
Ext: Warm, well-perfused, 1+ edema bilaterally
Neuro: CN II-XII grossly intact
Skin: No concerning lesions
 
Pertinent Results:
====================
ADMISSION LABS
====================
___ 04:45PM BLOOD WBC-9.7 RBC-5.05# Hgb-10.9* Hct-39.8 
MCV-79*# MCH-21.6*# MCHC-27.4*# RDW-17.9* Plt ___
___ 04:45PM BLOOD Neuts-84.1* Lymphs-8.0* Monos-5.9 Eos-1.3 
Baso-0.7
___ 05:12PM BLOOD ___ PTT-43.8* ___
___ 04:45PM BLOOD Glucose-108* UreaN-59* Creat-1.8* Na-140 
K-4.1 Cl-100 HCO3-25 AnGap-19
___ 04:45PM BLOOD cTropnT-<0.01
___ 04:45PM BLOOD ___
___ 04:45PM BLOOD Calcium-9.2 Phos-4.5 Mg-2.0
___ 02:54AM BLOOD Digoxin-0.3*

___ 06:40PM URINE Color-Straw Appear-Clear Sp ___
___ 06:40PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-SM 
___ 06:40PM URINE RBC-1 WBC-2 Bacteri-FEW Yeast-NONE Epi-3

====================
DISCHARGE LABS
====================
___ 06:10AM BLOOD WBC-10.0 RBC-4.17* Hgb-9.4* Hct-33.7* 
MCV-81* MCH-22.5* MCHC-27.9* RDW-19.6* Plt ___
___ 06:10AM BLOOD ___ PTT-31.6 ___
___ 06:10AM BLOOD Glucose-124* UreaN-60* Creat-1.7* Na-138 
K-3.7 Cl-90* HCO3-38* AnGap-14
___ 06:10AM BLOOD Calcium-10.0 Phos-2.6* Mg-2.2

===================
OTHER RESULTS
===================
___ 04:40AM BLOOD ___
___ 03:15PM BLOOD TSH-2.3
___ 02:54AM BLOOD Digoxin-0.3*

====================
MICROBIOLOGY: 
====================
___ 9:22 am SPUTUM      Source: Expectorated. 

   GRAM STAIN (Final ___: 
      ___ PMNs and <10 epithelial cells/100X field. 
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE ROD(S). 
      2+   ___ per 1000X FIELD):   GRAM NEGATIVE ROD(S). 

   RESPIRATORY CULTURE (Final ___: 
      SPARSE GROWTH Commensal Respiratory Flora. 
      GRAM NEGATIVE ROD(S).    SPARSE GROWTH. 
         OF TWO COLONIAL MORPHOLOGIES. 
      GRAM NEGATIVE ROD #3.    RARE GROWTH.  ___ TYPE. 

   FUNGAL CULTURE (Preliminary): 
      YEAST. 
      ASPERGILLUS SPECIES. 

====================
IMAGING
====================
CXR (___): Enlarged cardiac silhouette, small pleural 
effusions and pulmonary edema suggest fluid overload possibly 
due to CHF.

___: TTE from Atrius
NORMAL VALUES
Aortic Root diameter: (2.2-3.7CM)
Left Atrium diameter: (2.5-4.0CM)
LV septal thickness (IVSd): (0.7-1.1CM)
LV diastolic diameter (LVDd): (4.0-5.6CM) 
LV post wall thickness (LVPWd): (0.7-1.1CM)
LV systolic diameter (LVIDs): (2.0-3.8CM)
MEASUREMENTS
Ao Diam 2.1 cm
___ 6.4 cm
IVSd 0.7 cm
LVIDd 6.4 cm
LVPWd 0.7 cm
LVIDs 5.1 cm

STRUCTURED FINDINGS
Patient was referred for evaluation of pulmonary HTN. 
Referred for evaluation of S/P MV replacement. 
Referred for evaluation of S/P AV replacement.
The rhythm appears to be atrial fibrillation.
The study was technically adequate.
The left ventricle is moderately dilated. 
Left ventricular wall thickness is normal. 
There is severe global hypokinesis; 
lateral/inferolateral walls move best. 
Overall left ventricular systolic function is severely 
reduced, with an estimated LVEF of 25%. 
There is paradoxical/dysynergic septal motion 
consistent with right ventricular volume overload but 
also is s/p cardiac surgery. 
Unable to assess diastolic function due to the 
underlying afib and mitral valve replacement. 
The left atrium linear dimension is markedly enlarged. 
The left atrial volume is severely increased.
The right ventricle is borderline/mildly enlarged. 
The right ventricular wall thickness is normal 
measuring < 5mm. 
The right ventricular systolic function is moderately 
impaired.
The right atrium is mildly/moderately dilated.
Normally functioning bioprosthetic valve, which is 
well-seated. 
There is trace aortic regurgitation. 
The peak velocity of flow across the aortic valve at 
rest ranges from 1.5-2.1 m/s with a range of ___ 
mmHg. This is within normal limits for this type of 
valve.
Bioprosthetic MVR is well seated. 
Mild mitral regurgitation is present. 
There is no evidence of mitral stenosis. 
The peak transvalvular velocity ranges from 1.3-1.7 
m/sec, with peak/mean gradients ranging from ___
 mm Hg.
The tricuspid valve is mildly thickened. 
There is severe tricuspid regurgitation present. 
Tricuspid regurgitation flow velocity is measured 
ranging from  ___ m/s. 
Estimated PA systolic pressure is ___ mmHg + RA 
pressure,  consistent with mild to moderate pulmonary 
hypertension.
Pulmonic valve appears mildly thickened. There is no 
pulmonic stenosis.  There is mild pulmonic 
regurgitation.
There is no pericardial effusion.
The aortic root, measured at the level of the sinuses 
of Valsalva,  is of normal caliber. 
Visualized portions of the ascending aorta (top normal 
in size at 3.8 cm), transverse and descending thoracic 
aorta are of normal caliber.
The inferior vena cava is dilated, with blunted 
respirophasic movement.
There is no evidence of shunt by color Doppler.

CONCLUSIONS
1. The left ventricle is moderately dilated.
2. There is severe global hypokinesis.
3. Overall left ventricular systolic function is 
severely reduced, with an estimated LVEF of 25%.
4. The left atrial volume is severely increased.
5. The right ventricular systolic function is 
moderately impaired.
6. The right atrium is mildly/moderately dilated.
7. Normally functioning bioprosthetic AVR, which is 
well-seated.
8. Bioprosthetic MVR is well seated without evidence of
 stenosis or significant MR.
9. There is severe tricuspid regurgitation present.
10. Estimated PA systolic pressure is ___ mmHg + RA 
pressure,  consistent with  moderate pulmonary 
hypertension. RAP is mildly increased.
11. The inferior vena cava is dilated, with blunted 
respirophasic movement.
12. Compared with the findings of the prior report of 
___ (visually reviewed), significant decrease in
 LV and RV function. LV is now moderately enlarged. 
Rate of afib has increased considerably. TR is now 
severe.

___ CHEST, PA AND LATERAL  
The heart is enlarged.  A mitral and aortic valve replacement is 
noted.  The tip of the pacemaker wire lies in the right 
ventricle.  Mild failure is present with upper zone 
re-distribution and bilateral effusions. 
  
IMPRESSION:  Pacemaker wire in good position, no pneumothorax. 

 
Brief Hospital Course:
___ yo F with atrial fibrillation on Coumadin, CHF with LVEF of 
35%, and COPD on 1 L who presents with a 2 week history of 
increasing shortness of breath and a 6 pound weight gain 
admitted with an acute CHF exacerbation, AFib with RVR, and 
hypotension.

# Acute decompensated heart failure: Systolic. LVEF in ___ 
___ 25% down from prior readings of 35%. Unclear precipitant. 
Troponins negative. Patient also with progressive dyspnea on 
exertion, orthopnea, and weight gain (up to 140 lb from 133 lb 
dry weight.).  Pt. was aggressively diuresed with furosemide 
drip and her symptoms and weight improved.  It was felt that her 
tachycardia due to afib with RVR was likely contributing to her 
symptoms.  She was rate controlled with beta blockade and 
eventually AV nodal ablation and pacemaker placement (see 
below).  She was discharged on metoprolol, torsemide, 
spironolactone, and digoxin.

# Hypotension: Likely due to AFib with RVR and severe volume 
overload compromising cardiac output. Improved with diuresis.

# ___: Cr 1.8 elevated on admission from baseline of 1.4, likely 
due to CHF exacerbation. After diuresis her creatinine varied 
between 1.5 and 1.7.  

# Atrial fibrillation: Afib with RVR felt to be contributing to 
above heart failure.  Rate control was initially attempted with 
metoprolol, but as this was insufficient, she underwent AV nodal 
ablation and pacemaker placement without complications. Pt. was 
placed on warfarin for anticoagulation.

# Pneumonia: Pt. treated for presumed pneumonia with cefepime. 
Sputum culture with GNR's, GPR's, yeast, and Aspergillus. Pt. 
with mild leukocytosis and cough, but no fevers. She completed a 
5 day course of antibiotics.

# Type II diabetes: Pt. was placed on humalog insulin sliding 
scale.  Her home glipizide was held.

# Hyperlipidemia: Continued home statin.

# COPD: Continued home regimen.

# Gout: Continued allopurinol with renal dosing.

TRANSITIONAL ISSUES:
- further optimization of medical management of CHF including 
addition of ACEi
- pacer interrogation with Dr. ___ in one week post-discharge 
(scheduled)

INSTRUCTIONS FOR REHAB:
- draw INR biweekly with goal ___, adjust warfarin dose as 
needed
- draw daily chem 7 to monitor potassium and electrolytes while 
on torsemide and spironolactone, replete as needed
- draw weekly digoxin level with goal 0.5-0.8, adjust dose as 
needed
- 4L O2 via nasal cannula
- daily weights
- call MD if weight increase by more than 3 pounds or if pt. has 
increasing shortness of breath or increase oxygen requirement 
- ___ per routine
- consider restarting glipizide on discharge from rehab

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Bumetanide 7 mg PO DAILY 
3. Digoxin 0.0625 mg PO 3X/WEEK (___) 
4. Metoprolol Tartrate 50 mg PO BID 
5. Omeprazole 20 mg PO DAILY 
6. GlipiZIDE XL 10 mg PO BID 
7. Warfarin 3.5 mg PO DAILY16 
8. Potassium Chloride 10 mEq PO BID 
9. Tiotropium Bromide 1 CAP IH DAILY 
10. Aspirin 81 mg PO DAILY 
11. Calcium Carbonate 600 mg PO DAILY 

 
Discharge Medications:
1. Allopurinol ___ mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Calcium Carbonate 500 mg PO BID 
4. Digoxin 0.125 mg PO EVERY OTHER DAY 
5. Omeprazole 20 mg PO DAILY 
6. Tiotropium Bromide 1 CAP IH DAILY 
7. Warfarin 3.5 mg PO DAILY16 
8. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheeze 
9. Dextrose 50% 12.5 gm IV PRN hypoglycemia protocol 
10. Docusate Sodium 100 mg PO BID constipation 
Hold for loose stools. 
11. Glucagon 1 mg IM Q15MIN:PRN hypoglycemia protocol 
12. Glucose Gel 15 g PO PRN hypoglycemia protocol 
13. Insulin SC 
      Sliding Scale

Fingerstick QACHS
Insulin SC Sliding Scale using HUM Insulin
14. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN SOB 
15. Maalox/Diphenhydramine/Lidocaine 30 mL PO QID:PRN 
indigestion 
16. Metoprolol Succinate XL 50 mg PO BID 
17. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
Hold if stools are loose.
 
18. Senna 1 TAB PO BID 
Hold if stools are loose. 
19. Spironolactone 12.5 mg PO DAILY 
20. Torsemide 20 mg PO DAILY 
21. TraZODone 50 mg PO HS:PRN Insomnia 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Priamry diagnoses:
Systolic heart failure
Atrial fibrillation
Pneumonia

Secondary diagnoses:
Diabetes mellitues, type 2
Hyperlipidemia
COPD
Gout

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,
You were admitted to ___ due to increased shortness of breath. 
We felt this was due to heart failure with fluid overload.  You 
were given diuretic to remove fluids. Your heart rate was also 
fast and in an abnormal rhythm called atrial fibrillation.  You 
underwent a procedure to stop this rhythm and had a pacemaker 
placed.  You did well and your symptoms improved. You will need 
to have continue to take your medications and make sure your 
weight stays stable. If you start having increaasing shortness 
of breath or your weight increases by more than 3 lbs, please 
contact your doctor.

It was a pleasure taking care of you. We wish you all the best.

Sincerely,

Your cardiology team at ___
 
Followup Instructions:
___